US07576108B2
According to the procedure described for example 26a the use of 4-bromo-benzenesulfonyl chloride (1.278 g, 5.0 mmol) in 10 mL dichloromethane and C-Pyridin-3-yl-methylamine (541 mg, 5.0 mmol) and triethylamine (708 μL, 5.0 mmol) in 5 mL dichloromethane gives 4-bromo-N-pyridin-3-ylmethyl-benzenesulfonamide (1.54 g) as a pale yellow oil which slowly crystallizes upon storage at ambient temperature. Further purification is not necessary. MS (m/e): 328 (M+H).

reactant | 4-bromo-benzenesulfonyl chloride | 5.0 mmol, 1.278 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | C-Pyridin-3-yl-methylamine | 5.0 mmol, 541 mg | N1=CC(=CC=C1)CN | C6H8N2
reactant | triethylamine | 5.0 mmol, 708 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-pyridin-3-ylmethyl-benzenesulfonamide | 1.54 g | BrC1=CC=C(C=C1)S(=O)(=O)NCC=1C=NC=CC1 | C12H11BrN2O2S
